US07196114B2
a) 3-Amino-5-(4-fluorophenyl)thiophene-2-carboxylic acid
The mixture consisting of 500 mg of methyl 3-amino-5-(4-fluorophenyl)thiophene-2-carboxylate, 160 mg of lithium hydroxide, 2 ml of water, 2 ml of THF and 2 ml of methanol is stirred at RT for 3 days. After dilution with 15 ml of water, unhydrolyzed ester is removed by extraction with ethyl acetate. The aqueous phase is adjusted to pH 5 using hydrochloric acid and stirred, and the precipitated solid is filtered off with suction and dried.

reactant | methyl 3-amino-5-(4-fluorophenyl)thiophene-2-carboxylate | 500 mg | NC1=C(SC(=C1)C1=CC=C(C=C1)F)C(=O)OC | C12H10FNO2S
reactant | lithium hydroxide | 160 mg | [OH-].[Li+]
reactant | water | 2 ml | O | H2O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 3-Amino-5-(4-fluorophenyl)thiophene-2-carboxylic acid | NC1=C(SC(=C1)C1=CC=C(C=C1)F)C(=O)O | C11H8FNO2S
